US06846815B2
2-Benzylamino-6,7-diethoxyquinoxaline
To 0.3 g (1.19 mmol) of 2-chloro-6,7-diethoxyquinoxaline is added 2 mL of benzylamine. This mixture is heated under nitrogen overnight to 120° C. The resulting mixture is partitioned between CH2Cl2 and saturated NaHCO3 solution. The organic layer is concentrated, and the residue chromatographed (30:1 CH2Cl2; EtOH) to provide 0.337 g of the product as a yellow solid in 87.6% yield (m.p. 136° C.). Anal. Calcd for C19H21N3O2: C, 70.57; H, 6.54; N, 12.99. Found: C, 70.54; H, 6.66; N, 12.80.

reactant | 2-chloro-6,7-diethoxyquinoxaline | 1.19 mmol, 0.3 g | ClC1=NC2=CC(=C(C=C2N=C1)OCC)OCC | C12H13ClN2O2
reactant | benzylamine | 2 mL | C(C1=CC=CC=C1)N | C7H9N
product | 2-Benzylamino-6,7-diethoxyquinoxaline | 0.337 g, 87.6% yield | C(C1=CC=CC=C1)NC1=NC2=CC(=C(C=C2N=C1)OCC)OCC | C19H21N3O2
